US05354782
Step d: 1,15-Bis[(3,5-di-t-butyl-4-hydroxyphenyl)]-1,5,11,15-tetra(t-butyloxycarbonyl)-1,5,11,15-tetraazapentadecane
Suspend sodium hydride (48 mg, 2 mmol) and anisole (215 mg, 2 mmol) in anhydrous dimethylformamide (2 mL), cool to 0° C. and place under a nitrogen atmosphere. Add, by dropwise addition, a solution 1-[(3,5-di-t-butyl-4-hydroxyphenyl)]-1,5-bis(t-butyloxycarbonyl)-1,5-diazapentane (1.91 g, 4 mmol) in dimethylformamide (2 mL). Stir until evolution of hydrogen ceases. Add, by dropwise addition, a solution of 1,5-dibromopentane (230 mg, 1 mmol) in dimethylformamide (2 mL). Stir overnight at room temperature then carefully quench with saturated ammonium chloride. Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography to give the title compound.

reactant | sodium hydride | 2 mmol, 48 mg | [H-].[Na+]
reactant | anisole | 2 mmol, 215 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | 1-[(3,5-di-t-butyl-4-hydroxyphenyl)]-1,5-bis(t-butyloxycarbonyl)-1,5-diazapentane | 4 mmol, 1.91 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)N(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H46N2O5
reactant | hydrogen | [H][H] | H2
reactant | 1,5-dibromopentane | 1 mmol, 230 mg | BrCCCCCBr | C5H10Br2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1,15-Bis[(3,5-di-t-butyl-4-hydroxyphenyl)]-1,5,11,15-tetra(t-butyloxycarbonyl)-1,5,11,15-tetraazapentadecane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)N(CCCN(CCCCCN(CCCN(C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C59H100N4O10
